US08624056B2
A suspension of (E)-3,4-bis(difluoromethoxy)phenyl-2-propenoic acid (0.10 g, 0.42 mmol) in CH2Cl2 (5 mL) was treated with oxalyl chloride (0.14 mL, 1.7 mmol) and catalytic DMF (1 drop). The solution was stirred at rt for 1 h and the solvent was removed under reduced pressure to give the acid chloride as a yellow solid. A solution of the acid chloride (0.42 mmol) in pyridine (2.0 mL) was added to a cooled solution of 2-amino-4-chloro-N-methylbenzamide (0.12 g, 0.63 mmol) in pyridine (2.0 mL) at 0° C. The suspension was stirred at 0° C. for 1 h, warmed to rt and stirred for 16 h and then acidified with 1 M HCl. The precipitate was collected by filtration and recrystallised from EtOH/water providing (E)-2-[[3,4-bis(difluoromethoxy)phenyl)-1-oxo-2-propenyl]amino]-5-chloro-N-methylbenzamide (95 mg, 51%) as a pale brown crystalline solid; mp 191.5-195.5° C.; δH (500 MHz, DMSO-d6) 2.82 (d, J=4.5 Hz, 3H, NHCH3), 6.94 (d, J=15.6 Hz, 1H, CH═CHCO), 7.27 (t, J=73 Hz, 1H, OCHF2), 7.28 (t, J=73 Hz, 1H, OCHF2), 7.26 (dd, J5,6=8.0, J3,5=1.6 Hz, 1H, H5), 7.39 (d, J5′,6′=8.0 Hz, 1H, H5′), 7.59 (d, J=15.6 Hz, 1H, CH═CHCO), 7.69 (dd, J5′,6′=8.5, J2′,6′=2.5 Hz, 1H, H6′), 7.77 (d, J5,6=2.5 Hz, 1H, H6), 7.80 (d, J2′,6′=2.5 Hz, 1H, H2′), 8.67 (d, J3,5=2.5 Hz, 1H, H3), 8.84 (m, 1H, NHCH3), 11.82 (s, 1H, NH); δC (125 MHz, DMSO-d6) 26.3, 116.3 (t, J=259 Hz), 116.5 (t, J=259 Hz), 119.2, 119.9, 119.9, 120.7, 122.6, 123.4, 126.8, 129.6, 132.7, 136.2, 139.7, 140.2, 141.9, 142.8, 163.5, 167.8; HRMS (ESI+) calculated for C19H15ClF4N2O4 [M+Na]+ 469.0549, found 469.0546; νmax 1038, 1113, 1260, 1505, 1578, 1626, 3025, 3382 cm−1.

reactant | 2-amino-4-chloro-N-methylbenzamide | 0.63 mmol, 0.12 g | NC1=C(C(=O)NC)C=CC(=C1)Cl | C8H9ClN2O
reactant | HCl | 1 M | Cl | ClH
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | 5-chloro-N-methylbenzamide | 95 mg, 51% | ClC=1C=CC=C(C(=O)NC)C1 | C8H8ClNO
